US06521630B1
Preparation of 8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one
A 250 mL round bottom flask is charged with 2-amino-3-chlorobenzoic acid (5.00 g, 29.1 mmol) and 40 mL of 10% aqueous KHCO3. The slurry is cooled to 0° C., and 3-chloropropylisocyanate (5.25 mL, 51.2 mmol) is added. The reaction mixture is allowed to warm to room temperature over 3 h, warmed to reflux for 2 h, then stirred at room temperature for 16 h. It is then diluted with 40 mL H2O and cooled to 0° C. The product is collected by filtration to provide 5.68 g of a yellow solid. This material is purified by recrystallization: it is dissolved in a minimal volume of warm CH2Cl2 (ca. 10 mL), cooled to 0° C., and IPE (ca. 20 mL) added to the point of cloudiness; crystallization is allowed to proceed at that temperature for 1 h. The resulting yellow solid is collected and dried to provide 3.87 g (16.3 mmol, 56% yield) of light yellow solid.

reactant | 2-amino-3-chlorobenzoic acid | 29.1 mmol, 5.00 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | 3-chloropropylisocyanate | 51.2 mmol, 5.25 mL | ClCCCN=C=O | C4H6ClNO
solvent | H2O | 40 mL | O | H2O
product | 8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one | 5.68 g, 56% yield | ClC=1C=CC=C2C(N3CCCOC3=NC12)=O | C11H9ClN2O2
